### PR TITLE
[Merged by Bors] - feat: more results on `Order.enum`

### PR DESCRIPTION
**Pull request by vihdzp**
Most importantly, we prove that the enumerator function of a cofinal set is normal iff the set is closed (under non-empty suprema).

---

- [x] depends on: #38362
- [x] depends on: #39137

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 1]
```diff
@@ -109,4 +116,61 @@ theorem enum_univ (x : α) : enum univ .univ x = ⟨x, mem_univ x⟩ := by
...
+    [IsRegularCardinalOrder α] {s : Set α} {hs : IsCofinal s} : enum s hs ⊥ = sInf s := by
+  let : Bot s := ⟨⟨sInf s, csInf_mem hs.nonempty⟩⟩
+  let : OrderBot s := .mk fun a ↦ csInf_le' a.2
+  rw [OrderIso.map_bot]
+  rfl
+
+/-- Club sets correspond one to one with normal functions.
+
+See also `Order.IsClub.isNormal_enum`. -/
+theorem isNormal_enum_iff : IsNormal (Subtype.val ∘ enum s hs) ↔ DirSupClosed s := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]: I know they are equivalent, but isn't `IsClub` the morally correct RHS here?

Comment (vihdzp) [reply Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]: Yes, but club sets aren't imported in this file! I can add the club version in its own file.

File: Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean [hunk 2]
```diff
@@ -109,4 +116,62 @@ theorem enum_univ (x : α) : enum univ .univ x = ⟨x, mem_univ x⟩ := by
   rw [← Subsingleton.allEq OrderIso.Set.univ.symm (enum univ .univ)]
   rfl
 
+theorem enum_anti {hs : IsCofinal s} {t : Set α} {x : α} (h : s ⊆ t) :
+    enum t (hs.mono h) x ≤ (enum s hs x).1 := by
+  induction x using WellFoundedLT.induction with | ind x IH
+  exact enum_le_of_forall_lt (h (Subtype.prop _)) fun y hy ↦
+    (IH y hy).trans_lt ((enum s hs).strictMono hy)
+
+/-- A characterization of `Order.enum s _`: it is the unique strict monotonic function
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Cofinality/Enum.lean]:
```suggestion
/-- A characterization of `Order.enum s _`: it is the unique strictly monotone function
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/SetTheory/Cardinal/Cofinality/Club.lean [hunk 3]
```diff
@@ -30,6 +28,7 @@ universe u v
 open Cardinal Order
 
 /-- A club set is closed under suprema and cofinal. -/
```
Comment (faenuccio) [inline Mathlib/SetTheory/Cardinal/Cofinality/Club.lean]:
```suggestion
/-- A club set is a set that is closed under suprema and that is cofinal. -/
```

**Comment by faenuccio** [comment]
thanks

bors d+
